US04504490
2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene (formula V)
1 ml of concentrated sulfuric acid is added, with stirring, to 60 g of 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidonitrobenzene in 200 ml of acetic anhydride. A clear solution is initially produced, and the temperature rises to about 40° C. The mixture is stirred for a further four hours, and the precipitate produced is filtered off with suction and washed with diisopropyl ether and petroleum ether, melting point 196° C.

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidonitrobenzene | 60 g | FC(C=1C=C(C=CC1)S(=O)(=O)OC=1C=CC(=C(C1)[N+](=O)[O-])NC(=O)N)(F)F | C14H10F3N3O6S
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(3-Acetylureido)-5-(3-trifluoromethylphenylsulfonyloxy)nitrobenzene | C(C)(=O)NC(NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H12F3N3O7S
